US07935699B2
In a flask was placed 5-methyl-benzo[b]thiophene (3.64 g, 24.56 mmol) and carbon tetrachloride (75 mL). To the reaction mixture was then added N-bromosuccinimide (5.68 g, 31.92 mmol) and benzoyl peroxide (892 mg, 3.68 mmol) and it was the final solution was then heated at 76° C. for 6 h. After this time the reaction mixture was cooled to 0° C. in an ice bath and the solids were filtered off and the filterate was concentrated in vacuo and purified on an AnaLogix Intelliflash system (120 g column, 3% ethyl acetate/hexanes) to afford 5-bromomethyl-benzo[b]thiophene (5.27 g, 94%) as a yellow solid.

reactant | 5-methyl-benzo[b]thiophene | 24.56 mmol, 3.64 g | CC1=CC2=C(SC=C2)C=C1 | C9H8S
reactant | N-bromosuccinimide | 31.92 mmol, 5.68 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 3.68 mmol, 892 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 75 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-bromomethyl-benzo[b]thiophene | 5.27 g, 94% | BrCC1=CC2=C(SC=C2)C=C1 | C9H7BrS
